US08455483B2
b) (2-Isopropylthiazol-4-yl)(1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)methanone, hydrochloride salt
To a solution of tert-butyl 4-(2-isopropylthiazole-4-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate in iPrOH (3 volumes) at 40° C. under nitrogen was added a solution of 5-6N HCl in isopropanol (2-2.4 molar equivalents). The mixture was stirred at 40° C. for 18 hours, cooled to room temp and diluted with TBME (4 volumes). Stirred at room temp for 2 hours, collected by filtration, washed with TBME and air dried to leave an off white powder. Yield: 97% of theoretical.

reactant | tert-butyl 4-(2-isopropylthiazole-4-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate | C(C)(C)C=1SC=C(N1)C(=O)N1CCOC2(C1)CCN(CC2)C(=O)OC(C)(C)C | C20H31N3O4S
reactant | HCl | 5-6N | Cl | ClH
solvent | iPrOH | CC(C)O | C3H8O
solvent | isopropanol | 2-2.4 molar | C(C)(C)O | C3H8O
solvent | TBME | CC(C)(C)OC | C5H12O
product | (2-Isopropylthiazol-4-yl)(1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)methanone, hydrochloride salt | Yield: 97% | Cl.C(C)(C)C=1SC=C(N1)C(=O)N1CCOC2(C1)CCNCC2 | InChI=1S/C15H23N3O2S.ClH/c1-11(2)13-17-12(9-21-13)14(19)18-7-8-20-15(10-18)3-5-16-6-4-15;/h9,11,16H,3-8,10H2,1-2H3;1H
